US05968985
To a mixture of 3-(3,5-difluorophenyl)benzoic acid (2.3 g) in anhydrous methanol (46 ml) was added concentrated sulfuric acid (2.3 ml). The mixture was heated under reflux for four hours. After cooling to ambient temperature, the mixture was concentrated. Ethyl acetate (200 ml) and water (100 ml) were added and the layers were separated. The organic layer was successively washed with 20% aqueous potassium carbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel with hexane-ethyl acetate (10:1) as an eluent. The fractions containing the object product were collected and evaporated in vacuo to give methyl 3-(3,5-difluorophenyl)benzoate.

reactant | 3-(3,5-difluorophenyl)benzoic acid | 2.3 g | FC=1C=C(C=C(C1)F)C=1C=C(C(=O)O)C=CC1 | C13H8F2O2
reactant | sulfuric acid | 2.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 46 ml | CO | CH4O
product | methyl 3-(3,5-difluorophenyl)benzoate | FC=1C=C(C=C(C1)F)C=1C=C(C(=O)OC)C=CC1 | C14H10F2O2
